data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6942,"CCCCCCN1CCC23C4=C5C=CC(OC)=C4OC2C(=N[NH:1][H:2])CCC3(O)C1C5.O.[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3530,"C1=CC=C([CH:1]=[CH:2][C:3](C2=CC=CC=C2)=[O:4])C=C1.CC1=C(CCO)SC=[N+]1CC1=CC=C(CC[N:5]2C(C)=C(CCO)S[C:6]2=[C:7](O)CCCOCC2=CC=CC=C2)C=C1.CCO.CC[NH+](CC)CC.[Br-]|(5, 6);((6, 7), 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,541,"CCC(C)[OH:1].O=S(=O)(O[S:2](=O)(C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9180,"C(=NC1CCCCC1)=[N:1]C1CCCCC1.CCCCCCCCC=CCCCCCCCC(=O)[O:2][H:3].CN(C)C1=CC=NC=C1.OCC1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8960,"CC(=O)CCC1OCC[O+:1]1[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10274,"C[NH+:1]=[S:2](C)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,720,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.O=C1CCC2CCCC3=C2C1C([OH:3])O3|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,832,"C1CO[C:1](=[O:2])O1.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,188,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.N#CC1=C(C2=CC=CC=C2)[O:1][C:2](C2=CC=CC=C2)([OH2+:3])C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6196,"C1CC[NH:1]CC1.CN(C)C=O.CNC(=O)C(C)NC(=O)OC[C:2]1([H:3])C2=C(C=CC=C2)C2=C1C=CC=C2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1949,"CCC(=O)N[C+:1]1C=CC=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,9084,"SC=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3523,"C=C[CH:1]([H:2])[CH:3]1C(C)[O+:4]1[Li-][N:5](CC)CC|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8145,"Br[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,6541,"CC[C:1](C)=[CH:2]C.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8700,"CC[NH-:1].[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,2792,"O=S(=O)(O)C1=C[CH:1]=[CH:2]O1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,8166,"CC1=CC=C(S(=O)(=O)O)C=C1.CC1=CC=CC=C1.C[C:1](CCC(=O)C1=C(OCC2=CC=CC=C2)C=CC(Cl)=C1)=[O:2].NS(=O)(=O)C1=CC([NH2:3])=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2644,"O[P:1](O)O.[Cl:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7153,"CCCCC[C:1]#[C:2]CC(CCC)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4987,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)CC1(CC(=O)OCC)OCC[O+:1]1[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3947,"CCOCC.O=C1C=CC(OCC(CO)(C2=CC=CC=C2)C2=CC=CC=C2)([O:1][B-](F)(F)F)C1.OCC(C[OH+:2][H:3])(C1=CC=CC=C1)C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7984,"C1=CC=[N:1]C=C1.CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.O.OCCOC1([OH+:2][H:3])CCC(N2C=C(I)C=N2)CC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2963,"C[N:1]=[CH:2][S:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2545,"C=CC(=O)[O:1][C:2](C)(C#N)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6888,"C1CCC(=[O:1])CC1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1.OC1=C(O)C=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3804,"CCCN1C(=O)C2=C(C=CC=C2)[C:1]1=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3655,"CC(=O)C1=C([NH+:1](C(=O)C(N)CC2=CC=CC=C2)[H:2])C=CC=C1.O=C(C(F)(F)F)[O-:3].O=C=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6390,"NC1=C(CC=CC[O-:1])C=CC=C1.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5484,"C1=CC=[N:1]C=C1.CC1([O+:2](P(=O)(Cl)Cl)[H:3])C=CCC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4492,"CC(=O)[O:1][H:2].CC1(C)C2CC3=C(CC([N+]4=CC=CC=C4)C(C4=C(F)C=CC=C4)([OH:3])N3)C1C2.O.[I-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3124,"C1CC1C[NH2:1].[N:2]#[O+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5015,"CC1CCCO[C+:1]2C=CC=C[C:2]12[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2134,"C[CH2:1][O:2][P+:3](C)(C)C.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,4060,"CCC(=O)N[C+:1]1C=CC=C[C:2]1(C(C)C)[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3717,"C#CC[Si](C)(C)C.CC1CCC2C(C)[CH:1]([O:2][C:3](C3=CC=CC=C3)=[O+:4][Zn-]([Cl])[Cl])[O:5]C3OC4(C)CCC1C23OO4|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2854,"CC(=O)[O-:1].CC[O+:2](P(C)(C)(C)N(NC(=O)OC)C(=O)OC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7410,"CCCCCCCCC=CCCCCCCCC(=O)[O-].CCCCCCCCC=CCCCCCCC[C:1](OC(NC1CCCCC1)=[NH+]C1CCCCC1)=[O:2].CN(C)C1=CC=[N:3]C=C1.OCC1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6990,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CCO.CCOC(=O)C(CC(=O)C1=CC=CO1)([NH2+]NC1=CC(C#N)=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5789,"O[C+:1]1C=C[C:2](N=NC2=CC=CC=C2)([H:3])[CH:4]=[CH:5]1.[Cl-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,3134,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OCCOC1=CC=C(OCC[O-:2])C=C1|(2, 1)"
train,pmechdb_split_0,0,8062,"CCCC(C1CCCCC1)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9247,"CC(C)C(O)(CC1=CC=CC=C1)[C:1](C1=CC=CC=C1)([H:2])[C:3](C(C)C)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
